US06974815B2
[7a-(4-Cyano-benzyl)-3-(3,5-Dichlorophenyl)-2-oxo-2,3,5,6,7,7a-hexahydro-benzimidazol-3a-yl]-acetic acid ethyl ester (34 mg) (0.07 mmol) and LiOH (3.0 mg) (1.1 eq) in a 1:1 mixture of MeOH/H2O (4 ml) (5 ml) were stirred 4 days. The reaction mixture was acidified with an aqueous solution of HCl 1N, then concentrated. The residue was purified on HPLC to give [7a-(4-Cyano-benzyl)-3-(3,5-Dichlorophenyl)-2-oxo-2,3,5,6,7,7a-hexahydro-benzimidazol-3a-yl]-acetic acid (3.9 mg) as a white solid. 1H NMR (CDCl3): 7.55 (2H, d), 7.25 (2H, d), 7.15 (1H, m), 6.75 (2H, m), 5.0 (1H, m), 4.45 (1H, d), 3.83 (1H, d), 3.05 (1H, d), 2.9 (1H, d), 2.5-2.1 (2H, m), 2.1-1.8 (4H, m).

reactant | [7a-(4-Cyano-benzyl)-3-(3,5-Dichlorophenyl)-2-oxo-2,3,5,6,7,7a-hexahydro-benzimidazol-3a-yl]-acetic acid ethyl ester | 0.07 mmol, 34 mg | C(C)OC(CC12C(NC(N1C1=CC(=CC(=C1)Cl)Cl)=O)(CCCC2)CC2=CC=C(C=C2)C#N)=O | C25H25Cl2N3O3
reactant | LiOH | 3.0 mg, 1.1 eq | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH H2O | 4 ml | CO.O
product | [7a-(4-Cyano-benzyl)-3-(3,5-Dichlorophenyl)-2-oxo-2,3,5,6,7,7a-hexahydro-benzimidazol-3a-yl]-acetic acid | 3.9 mg | C(#N)C1=CC=C(CC23NC(N(C2(CCCC3)CC(=O)O)C3=CC(=CC(=C3)Cl)Cl)=O)C=C1 | C23H21Cl2N3O3
